US08440689B2
C. 6-((1R,2S)-2-Aminocyclopentylamino)-4-(3-(methylsulfonyl)phenylamino)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one (HCl salt)
A mixture of tert-butyl (1S,2R)-2-(4-(3-(methylsulfonyl)phenylamino)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclopentylcarbamate (16.5 mg, 0.329 mmol) and HCl (1 mL, 32.9 mmol) in HOAc (2 mL) was stirred at RT for 3 h. The mixture was concentrated under reduced pressure and the residue was recrystallized from EtOH—H2O to give the title compound (9.6 mg, 67%). 1H-NMR (DMSO-d6) δ ppm 1.63-1.79 (m, 4H), 20.3-2.06 (m, 1H), 2.19-2.20 (m, 1H), 3.32 (s, 3H), 3.74 (br s, 1H), 4.23-4.28 (m, 2H), 4.45 (br s, 1H), 6.22 (s, 1H), 7.34-7.35 (m, 1H), 7.51-7.58 (m, 3H), 7.73 (br s, 3H), 8.13 (s, 1H), 8.82 (s, 1H), 9.26 (s, 1H).

reactant | tert-butyl (1S,2R)-2-(4-(3-(methylsulfonyl)phenylamino)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclopentylcarbamate | 0.329 mmol, 16.5 mg | CS(=O)(=O)C=1C=C(C=CC1)NC1=NC(=CC2=C1C(NC2)=O)N[C@H]2[C@H](CCC2)NC(OC(C)(C)C)=O | C24H31N5O5S
reactant | HCl | 32.9 mmol, 1 mL | Cl | ClH
solvent | HOAc | 2 mL | CC(=O)O | C2H4O2
product | 6-((1R,2S)-2-Aminocyclopentylamino)-4-(3-(methylsulfonyl)phenylamino)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 9.6 mg, 67% | N[C@@H]1[C@@H](CCC1)NC1=CC2=C(C(=N1)NC1=CC(=CC=C1)S(=O)(=O)C)C(NC2)=O | C19H23N5O3S
